US05665777
Step 2: 5-[4-phenylphenoxy]pentanohydroxamic acid.
The desired compound was prepared according to the method of Example 18, steps 2 and 3, except substituting 5-(4-phenylphenoxy)pentanoic acid methyl ester, prepared as in step 1, for 5-(3-phenylphenoxy)pentanoic acid methyl ester. mp 151.5°-153.5° C. 1H NMR(DMSO-d6) δ 10.36 (S, 1H), 8.66 (d, 1H, J=1.5 Hz), 7.65-7.55 (c, 4H), 7.46-7.39 (c, 2H), 7.34-7.26 (c, 2H), 4.00 (t, 2H, J=6 Hz), 2.03 (t, 2H, J=6 Hz), 1.80-1.58 (c, 4H). IR (KBr) 3200, 3040, 2920, 2860, 1660, 1640, 1620, 1610, 1520, 1490, 1470, 1290, 1270, 1250, 1200, 1180, 1030, 840, 780, 690 cm-1. MS (DCI/NH3) 269 (M-16), 286 (M+H)+, 303 (M+NH4)+. Anal. Calcd for: C17H19NO3.0.25 H2O: C, 70.44; H, 6.78; N, 4.83. Found: C, 70.71; H, 6.82; N, 4.98.

reactant | 5-(4-phenylphenoxy)pentanoic acid methyl ester | COC(CCCCOC1=CC=C(C=C1)C1=CC=CC=C1)=O | C18H20O3
reactant | 5-(3-phenylphenoxy)pentanoic acid methyl ester | COC(CCCCOC1=CC(=CC=C1)C1=CC=CC=C1)=O | C18H20O3
reactant | KBr | [K+].[Br-]
reactant | NH3 | N | H3N
solvent | H2O | O | H2O
product | 5-[4-phenylphenoxy]pentanohydroxamic acid | C1(=CC=CC=C1)C1=CC=C(OCCCCC(=O)NO)C=C1 | C17H19NO3
